US05543406
C. 17β-N,N-Diethylcarbamoyl-6-azaandrost-1,4-dien-3-one
A sample of 17β-N,N-diethylcarbamoyl-6-t-butylcarboxy-6-azaandrost-1,4-dien-3-one (188 mg, 0.400 mmol), prepared in part B above, is treated with trifluoroacetic acid as described in Example 4 above to give, after trituration with diethyl ether/hexanes 17β-N,N-diethylcarbamoyl-6-azaandrost-1,4-dien-3-one as a pale yellow solid; yield: 98 mg (66%); m.p.>250° C. Anal. Calcd. for C23H34N2O2 ·1/2H2O; C, 72.78; H, 9.29; N, 7.38. Found: C, 72.89; H, 9.20; N, 7.43.

reactant | 17β-N,N-diethylcarbamoyl-6-t-butylcarboxy-6-azaandrost-1,4-dien-3-one | 0.400 mmol, 188 mg | C(C)N(C(=O)[C@@H]1[C@]2(CC(=O)O)[C@@H](CC1)[C@@H]1CN(C3=CC(C=C[C@]3(C)[C@H]1CC2)=O)C(C)(C)C)CC | C28H42N2O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 17β-N,N-Diethylcarbamoyl-6-azaandrost-1,4-dien-3-one | C(C)N(C(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CNC3=CC(C=C[C@]3(C)[C@H]1CC2)=O)CC | C23H34N2O2
